US07704996B2
Following the synthetic procedure as described in Ref. Example 2, a solution of 4-[2-(1-tert-butoxycarbonylpiperidin-4-yl)ethoxy]6-chloro-2-methanesulfonylpyrimidine-5-carboxylic acid allyl ester (1.8 mmol) in CH2Cl2 (5 mL) is treated with a solution of NaCN (2.2 mmol) and tetra-n-butylammonium bromide (0.10 mmol) in water (2 mL) for 0.5 h. After usual work-up, the crude material is purified by silica gel chromatography to give 4-[2-(1-tert-butoxycarbonylpiperidin-4-yl)ethoxy]-6-chloro-2-cyanopyrimidine-5-carboxylic acid allyl ester as colorless oil; 1H-NMR (CDCl3), δ: 1.12-1.73 (9H, m), 1.48 (9H, s), 2.68 (2H, brt), 4.05-4.09 (2H, m), 4.55 (2H, t), 4.87 (2H, dt), 5.33-5.37 (1H, m), 5.41-5.47 (1H, m), 5.98 (1H, ddt).

reactant | 4-[2-(1-tert-butoxycarbonylpiperidin-4-yl)ethoxy]6-chloro-2-methanesulfonylpyrimidine-5-carboxylic acid allyl ester | 1.8 mmol | C(C=C)OC(=O)C=1C(=NC(=NC1Cl)S(=O)(=O)C)OCCC1CCN(CC1)C(=O)OC(C)(C)C | C21H30ClN3O7S
reactant | NaCN | 2.2 mmol | [C-]#N.[Na+]
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | tetra-n-butylammonium bromide | 0.10 mmol | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 2 mL | O | H2O
product | 4-[2-(1-tert-butoxycarbonylpiperidin-4-yl)ethoxy]-6-chloro-2-cyanopyrimidine-5-carboxylic acid allyl ester | C(C=C)OC(=O)C=1C(=NC(=NC1Cl)C#N)OCCC1CCN(CC1)C(=O)OC(C)(C)C | C21H27ClN4O5
